spice
* SPICE Netlist
* Transistors
M1 8 2 7 7 PMOS
M2 8 4 7 7 PMOS
M3 2 2 3 3 PMOS
M4 4 4 3 3 PMOS
M5 2 3 3 3 NMOS
M6 4 3 3 3 NMOS

* Current Source
I1 5 6 DC 2.5uA

* Voltage Source
VDD 8 3 DC <value>
VSS 3 0 DC 0

* Nodes
* Node 2: VIN1
* Node 4: VIN2
* Node 7: VOUT1
* Node 3: VOUT2

.ends